US07456191B2
trans-2-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-cyclohexanol
An ice-cooled solution of 2.28 g (10.0 mmol) of 5-Bromo-2,4-dichloropyrimidine and 3.4 ml (24.0 mmol) of triethylamine in 10 ml of acetonitrile is mixed with 1.82 g (12.1 mmol) of trans-2-aminocyclohexanol hydrochloride. After 16 hours at room temperature the batch is filtrated and the filtrate is concentrated by evaporation. The remaining residue is purified by chromatography (hexane/ethyl acetate: 1:1). 1.61 g (5.3 mmol, corresponding to 53% of theory) of the product is obtained.

reactant | 5-Bromo-2,4-dichloropyrimidine | 10.0 mmol, 2.28 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | triethylamine | 24.0 mmol, 3.4 ml | C(C)N(CC)CC | C6H15N
reactant | trans-2-aminocyclohexanol hydrochloride | 12.1 mmol, 1.82 g | Cl.N[C@H]1[C@@H](CCCC1)O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | trans-2-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-cyclohexanol | BrC=1C(=NC(=NC1)Cl)N[C@H]1[C@@H](CCCC1)O | C10H13BrClN3O
